US04120969
4-Chloromethyl-3,3-diphenyl-1-isopropyl-2-pyrrolidinone
A solution of 43 g. (0.14 mole) of 3,3-diphenyl-4-hydroxymethyl-1-isopropyl-2-pyrrolidinone in 250 ml. of chloroform was treated with 33 g. (0.28 mole) of thionyl chloride over a one minute period followed by the dropwise addition of 22 g. (0.23 mole) of pyridine over a 30 minute period. The mixture was refluxed 18 hours and then poured onto ice. The cold mixture was made basic by the addition of sodium hydroxide. The chloroform layer was separated, dried over sodium sulfate and concentrated. The residue was crystallized using charcoal from a 25% ethyl acetate - 75% isopropyl ether mixture. The crystalline solid was recrystallized from a 75% ethanol - 25% water mixture and then from isopropyl ether. The dried 4-chloromethyl-3,3-diphenyl-1-isopropyl-2-pyrrolidinone weighed 23 g. and melted at 114°-116° C.

reactant | 3,3-diphenyl-4-hydroxymethyl-1-isopropyl-2-pyrrolidinone | 0.14 mole | C1(=CC=CC=C1)C1(C(N(CC1CO)C(C)C)=O)C1=CC=CC=C1 | C20H23NO2
reactant | thionyl chloride | 0.28 mole | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.23 mole | N1=CC=CC=C1 | C5H5N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloromethyl-3,3-diphenyl-1-isopropyl-2-pyrrolidinone | ClCC1C(C(N(C1)C(C)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H22ClNO
